US07786165B2
ethyl 3-(4-amino-2,6-difluorophenyl)propanoate
To a solution of ethyl(2E)-3-[4-(dibenzylamino)-2,6-difluorophenyl]acrylate (5.00 g, 12.3 mmol) in acetic acid (100 mL) was added 10% palladium-carbon (50% water-containing product, 0.50 g), and the mixture was stirred under a hydrogen atmosphere at 50° C. for 16 hr. The catalyst was filtered off, and the obtained filtrate was concentrated. The residue was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=95/5-hexane/ethyl acetate=50/50) to give the title compound (2.63 g, yield 93%) as a yellow oil.

reactant | ethyl(2E)-3-[4-(dibenzylamino)-2,6-difluorophenyl]acrylate | 12.3 mmol, 5.00 g | C(C1=CC=CC=C1)N(C1=CC(=C(C(=C1)F)/C=C/C(=O)OCC)F)CC1=CC=CC=C1 | C25H23F2NO2
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 0.50 g | [C].[Pd]
product | ethyl 3-(4-amino-2,6-difluorophenyl)propanoate | 2.63 g, yield 93% | NC1=CC(=C(C(=C1)F)CCC(=O)OCC)F | C11H13F2NO2
